US07176224B2
A mixture of 2-(4-chlorophenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester (0.030 mmol), toluene-4-sulfonic acid 2-[5-methyl-2-(3-thiophen-2-ylphenyl)-oxazol-4-yl]ethyl ester (0.030 mmol) (see Ex. 5, Part B) and 325 mesh K2CO3 (0.084 g, 0.60 mmol) in ethanol (2 mL) was heated to reflux for 24 h under N2. Aqueous 5N NaOH (0.5 mL) and additional ethanol (1 mL) was added to the reaction mixture and it was heated at reflux for an additional 2 h. The reaction was cooled and the solvent removed in vacuo. The residue was acidified with aqueous 1 N HCl (5 mL), extracted with water and CH2Cl2 and the organic layer dried by passing it through a Varian Chem Elut 1003 cartridge. The solvent was removed in vacuo to give 2-(4-chlorophenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(3-thiophen-2-yl-phenyl)-oxazol-4-yl]ethoxy}-phenyl)-propionic acid. 1H NMR (400 MHz, CDCl3) δ 8.23 (s, 1H), 8.87 (d, 1H, J=8.21 Hz), 7.69–7.67 (m, 1H), 7.46 (d, 1H, J=8.21 Hz), 7.42 (dd, 1H, J=3.52 Hz, 2.74 Hz), 7.32 (dd, 1H, J=5.08 Hz, 2.74 Hz), 7.19–7.15 (m, 3H), 7.18 (dd, 2H, J=6.26 Hz, 2.74 Hz), 6.82 (dd, 4H, J=8.60 Hz, 2.74 Hz), 4.22 (t, 2H, J=6.26 Hz), 3.24 (d, 1H, J=14.08 Hz), 3.10 (d, 1H, J=14.08 Hz), 3.05 (t, 2H, J=6.26 Hz), 2.42 (s, 3H), 1.40 (s, 3H). MS (ES+) m/z mass calcd for C32H29ClNO5S 574.15, found 574.2.

reactant | 2-(4-chlorophenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester | 0.030 mmol | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC=C(C=C1)Cl)=O | C18H19ClO4
reactant | toluene-4-sulfonic acid 2-[5-methyl-2-(3-thiophen-2-ylphenyl)-oxazol-4-yl]ethyl ester | 0.030 mmol | CC1=C(N=C(O1)C1=CC(=CC=C1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C23H21NO4S2
reactant | K2CO3 | 0.60 mmol, 0.084 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-(4-chlorophenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(3-thiophen-2-yl-phenyl)-oxazol-4-yl]ethoxy}-phenyl)-propionic acid | ClC1=CC=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2=CC(=CC=C2)C=2SC=CC2)C)C=C1 | C32H28ClNO5S
